US07230022B2
Part H: Preparation of (4aSR,8SR,8aRS)-2-[3-(4-fluorophenyl)propyl]decahydroisoquinolin-8-amine
A solution of tert-butyl {(4aSR,8SR,8aRS)-2-[3-(4-fluorophenyl)propanoyl]decahydroisoquinolin-8-yl}carbamate (220 mg, 544 μmol) in tetrahydrofuran (5 mL) was treated with a solution of borane in tetrahydrofuran (1.0 M; 1.0 mL, 1.0 mmol) and the mixture was heated at reflux for 3 hours. The mixture was cooled and treated with 1.0 N aqueous hydrochloric acid and then heated at reflux for 2 hours. The mixture was cooled again to room temperature and concentrated to provide a white solid. The white solid was partitioned between ethyl acetate and 2.0 N aqueous sodium hydroxide. The organic phase was separated, dried over magnesium sulfate and concentrated to provide a colorless oil (151 mg, 95%). 1H NMR (300 MHz, CDCl3) δ7.05 (m, 2H), 6.87 (m, 2H), 3.57 (t, J=6 Hz, 2H), 3.51 (t, J=7 Hz, 2H), 3.20 (m, 1H), 2.86 (m, 1H), 2.51 (m, 2H), 2.44 (broad s, 2H), 2.4-2.2 (m, 2H), 1.8-1.4 (m, 7H), 1.3-0.8 (m, 3H). Mass spec (ES+) m/z 291.3 (M+H+, 100%).

reactant | tert-butyl {(4aSR,8SR,8aRS)-2-[3-(4-fluorophenyl)propanoyl]decahydroisoquinolin-8-yl}carbamate | 544 μmol, 220 mg | FC1=CC=C(C=C1)CCC(=O)N1CC2C(CCCC2CC1)NC(OC(C)(C)C)=O | C23H33FN2O3
reactant | borane | B | BH3
reactant | hydrochloric acid | 1.0 N | Cl | ClH
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.0 mmol, 1.0 M, 1.0 mL | O1CCCC1 | C4H8O
product | (4aSR,8SR,8aRS)-2-[3-(4-fluorophenyl)propyl]decahydroisoquinolin-8-amine | 151 mg, 95% | FC1=CC=C(C=C1)CCCN1CC2C(CCCC2CC1)N | C18H27FN2
